US06891044B2
3-(4-Nitrostyly)-6-(3-methoxy 4-methoxymethoxy-phenyl)-1-[2-trimethyl-silanyl) ethoxymethyl]-1H-indazole was prepared in a similar manner to that described for Example 33(a), step (ii) except that 4-nitrobenzyltriphenylphosphonium bromide and lithium hexamethyldisilazide were used instead of 2-picolyltriphenylphosphonium chloride-potassium hydride: LCMS (100% area) Rt=6.89 min, (pos) [M+H]/z Calc'd 562.4, found 562.4.

reactant | 4-nitrobenzyltriphenylphosphonium bromide | [Br-].[N+](=O)([O-])C1=CC=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1
reactant | lithium hexamethyldisilazide | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | 2-picolyltriphenylphosphonium chloride potassium hydride | [Cl-].N1=C(C=CC=C1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[H-].[K+]
product | 1H-indazole | N1N=CC2=CC=CC=C12 | C7H6N2
